US07728016B2
1-(2,4-Dihydroxy-phenyl)-5-(4-fluoro-phenyl)-1H-[1,2,3]triazole-4-carboxylic acid
1-(5-Chloro-2,4-dimethoxy-phenyl)-5-(4-fluoro-phenyl)-1H-[1,2,3]triazole-4-carboxylic acid (0.29 g, 0.77 mmol) was refluxed in a mixture of hydroiodic acid (5 mL), acetic acid (1 mL) and acetic anhydride (0.5 mL) for 16 hours. When cooled, water (20 mL) was added and the aqueous layer was extracted with EtOAc (2×15 mL). The combined organic layers were washed with saturated sodium thiosulphate solution (2×15 mL) and brine (20 mL), dried with NaSO4 and filtered. After evaporation of the solvent, light brown solids were obtained (0.15 g, 62%). The compound was used in the next synthetic step without further purification.

reactant | 1-(5-Chloro-2,4-dimethoxy-phenyl)-5-(4-fluoro-phenyl)-1H-[1,2,3]triazole-4-carboxylic acid | 0.77 mmol, 0.29 g | ClC=1C(=CC(=C(C1)N1N=NC(=C1C1=CC=C(C=C1)F)C(=O)O)OC)OC | C17H13ClFN3O4
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
reactant | acetic anhydride | 0.5 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 20 mL | O | H2O
solvent | hydroiodic acid | 5 mL | I | HI
product | 1-(2,4-Dihydroxy-phenyl)-5-(4-fluoro-phenyl)-1H-[1,2,3]triazole-4-carboxylic acid | OC1=C(C=CC(=C1)O)N1N=NC(=C1C1=CC=C(C=C1)F)C(=O)O | C15H10FN3O4
